US04743586
A mixture of 23.8 g of 2,3-dioxobutyric acid, ethyl ester, (Z)-2-oxime, 18 g of 2-aminomethyl pyridine and 250 ml of acetonitrile was refluxed for 7 hours and then stored at -10° C. overnight. The solid was collected, giving 20.68 g of 5-methyl-2-(2-pyridinyl)-1H-imidazole-3-carboxylic acid, ethyl ester.

reactant | 2,3-dioxobutyric acid, ethyl ester | 23.8 g | O=C(C(=O)OCC)C(C)=O | C6H8O4
reactant | 2-aminomethyl pyridine | 18 g | NCC1=NC=CC=C1 | C6H8N2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 5-methyl-2-(2-pyridinyl)-1H-imidazole-3-carboxylic acid, ethyl ester | 20.68 g | CC1=CN(C(N1)C1=NC=CC=C1)C(=O)OCC | C12H15N3O2
